US05116862
A mixture of crude 2-(but-3-enyl)-2-hydroxymethylpropan-1,3-diol (4.5 g), acetone (30 ml) and p-toluenesulphonic acid (0.25 g) was refluxed in a Dean and Stark apparatus for 7 hours. The mixture was cooled and washed with aqueous sodium hydrogen carbonate solution. The organic solution was dried over anhydrous magnesium sulphate and the solvent was removed in vacuo. The residue was chromatographed on silica, eluting with 1:4 diethyl ether: hexane. 5-(But-3-enyl)-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane was obtained as a colourless oil (1.0 g).

reactant | 2-(but-3-enyl)-2-hydroxymethylpropan-1,3-diol | 4.5 g | C(CC=C)C(CO)(CO)CO | C8H16O3
reactant | p-toluenesulphonic acid | 0.25 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 5-(But-3-enyl)-2,2-dimethyl-5-hydroxymethyl-1,3-dioxane | C(CC=C)C1(COC(OC1)(C)C)CO | C11H20O3
